US07932272B2
5-(2,5-Difluoro-phenoxy)-furan-2-carbaldehyde
To a solution of 2,5-difluorophenol (3360 mg, 25.83 mmol) in N,N-dimethylformamide (60 mL) was sodium hydride (1032 mg, 25.83 mmol, 60% in oil), which was then stirred for 1 hour. 5-Bromo-2-furaldehyde (3826 mg, 21.52 mmol) was added to the reaction solution, and the solution was stirred at 60° C. for 12 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and then, concentrated in vacuo. The resulting residue was purified by silica gel chromatography (hexane-ethyl acetate), and the title compound (1104 mg, 4.92 mmol, 22.9%) was obtained.

reactant | 2,5-difluorophenol | 25.83 mmol, 3360 mg | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | sodium hydride | 25.83 mmol, 1032 mg | [H-].[Na+]
reactant | 5-Bromo-2-furaldehyde | 21.52 mmol, 3826 mg | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 5-(2,5-Difluoro-phenoxy)-furan-2-carbaldehyde | 4.92 mmol, 1104 mg, 22.9% | FC1=C(OC2=CC=C(O2)C=O)C=C(C=C1)F | C11H6F2O3
